US07166730B2
A mixture of m-CF3C6H4OH (48.6 g, 0.30 mol), epichlorohydrin (138.8 g, 1.50 mol) and K2CO3 (20.7 g, 0.15 mol) was stirred at 70° C. for 2 h. Epichlorohydrin was evaporated in vacuo. Water (250 mL) was added and the resulting mixture was extracted with CH2Cl2 (2×50 mL). The combined organic extract was stirred with 32% HCl (50 mL) for 0.5 h at rt. The organic layer separated, dried over Na2SO4, filtered and concentrated in vacuo to give 76.2 g of crude 1-chloro-3-[3-(trifluoromethyl)phenoxy]-2-propanol which was used in next step without additional treatment.

reactant | m-CF3C6H4OH | 0.30 mol, 48.6 g | C(F)(F)(F)C=1C=C(C=CC1)O | C7H5F3O
reactant | epichlorohydrin | 1.50 mol, 138.8 g | C(Cl)C1CO1 | C3H5ClO
reactant | K2CO3 | 0.15 mol, 20.7 g | C(=O)([O-])[O-].[K+].[K+]
product | 1-chloro-3-[3-(trifluoromethyl)phenoxy]-2-propanol | 76.2 g | ClCC(COC1=CC(=CC=C1)C(F)(F)F)O | C10H10ClF3O2
